US09428495B2
A 22 L reactor was charged with (2R)-benzyl 2-epoxypropyl ether (0.7692 kg, 4.684 mol) T-internal 18-19C. Allylamine (3800 mL, 51 mol) was added at 18-19° C. and resultant mixture was heated to 50° C. After 20 h, the mixture was concentrated, azeotroped with MTBE (4 L×3) to give (R)-1-(allylamino)-3-(benzyloxy)propan-2-ol, 7 (ca. 1037 g, 4.684 mol, 100% yield assumed) as colorless oil.

reactant | (2R)-benzyl 2-epoxypropyl ether | 4.684 mol, 0.7692 kg | O1[C@@H](COCC2=CC=CC=C2)C1 | C10H12O2
reactant | Allylamine | 51 mol, 3800 mL | C(C=C)N | C3H7N
product | (R)-1-(allylamino)-3-(benzyloxy)propan-2-ol | 100% yield | C(C=C)NC[C@H](COCC1=CC=CC=C1)O | C13H19NO2
